US07816344B2
(S)-1-azido-2-(2-bromophenyl)propan-2-ol (8.7 g, 34.0 mmol) and triisopropyl borate (9.4 mL, 40.8 mmol) were dissolved in 170 mL of toluene. The reaction mixture was refluxed with a Dean/Stark apparatus to remove the toluene and the residue was dissolved in 150 mL of dry THF. This solution was cooled to −78° C. and BuLi (25M in Hexanes, 15.6 mL, 39.1 mmol) was added dropwise and stirred for 30 min. The reaction mixture was warmed to room temperature and allowed to stir for 3 hrs before being quenched with 50 mL of 6M HCl and concentrated under vacuum. This was extracted 3× with 100 mL of DCM. The combined organic layers were dried over MgSO4 and evaporated under vacuum. Purified by silica gel chromatography (20-30% Et2O/petroleum ether) to give 2.1 g (30%) of (S)-3-(azidomethyl)-3-methylbenzo[c][1,2]oxaborol-1(3H)-ol as a dark yellow oil.

reactant | (S)-1-azido-2-(2-bromophenyl)propan-2-ol | 34.0 mmol, 8.7 g | N(=[N+]=[N-])C[C@@](C)(O)C1=C(C=CC=C1)Br | C9H10BrN3O
reactant | triisopropyl borate | 40.8 mmol, 9.4 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | BuLi | 39.1 mmol, 25M, 15.6 mL | [Li]CCCC
solvent | toluene | 170 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-3-(azidomethyl)-3-methylbenzo[c][1,2]oxaborol-1(3H)-ol | 2.1 g, 30% | N(=[N+]=[N-])C[C@@]1(C2=C(B(O1)O)C=CC=C2)C | C9H10BN3O2
